US07355069B2
a) N-(2,4-difluorobenzyl)-N-heptylamine
Heptylamine (345.6 mg, 3 mmol) was added into 2,4-difluorobenzaldehyde (440.5 mg, 3.1 mmol) in MeOH (3 ml) and trimethyl orthoformate (2 ml), followed by acetic acid (0.05 ml). The mixture was in microwave oven (Smith Synthesizer) at 150° C. for 10 minutes. DCM (3 ml) was then added and followed borohydride on polymer support (1.2 g, 3 mmol). The mixture was shaken overnight and more of borohydride on polymer support (1.2 g) was added. The mixture was shaken over weekend and then filtered and evaporated. The residue was put on a column ((ISOLUTE®PRS, 10 g) and eluted with MeCN, MeOH and then MeOH(NH3 sat.). 536 mg of oil product was obtained, yield 72%.

reactant | Heptylamine | 3 mmol, 345.6 mg | C(CCCCCC)N | C7H17N
reactant | 2,4-difluorobenzaldehyde | 3.1 mmol, 440.5 mg | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
reactant | borohydride | [BH4-]
solvent | MeOH | 3 ml | CO | CH4O
solvent | trimethyl orthoformate | 2 ml | C(OC)(OC)OC | C4H10O3
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(2,4-difluorobenzyl)-N-heptylamine | 536 mg, yield 72% | FC1=C(CNCCCCCCC)C=CC(=C1)F | C14H21F2N
